US05709867
(a) Preparation of methyl 5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthylglycinate
8 g (22 mmol) of 5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthylglycine and 100 ml of methanol were introduced into a round-bottomed flask and 9 ml (0.12 mol) of thionyl chloride were added dropwise. The mixture was stirred at room temperature for 12 hours, the reaction medium evaporated, and the residue taken up in sodium bicarbonate solution and ethyl ether. The organic phase was decanted off, dried over magnesium sulfate and evaporated. 6 g (100%) of the expected ester were recovered.

reactant | 5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthylglycine | 22 mmol, 8 g | CC1(C=2C=CC(=CC2C(CC1)(C)C)NCC(=O)O)C | C16H23NO2
reactant | thionyl chloride | 0.12 mol, 9 ml | S(=O)(Cl)Cl | Cl2OS
reactant | methanol | 100 ml | CO | CH4O
product | methyl 5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthylglycinate | CC1(C=2C=CC(=CC2C(CC1)(C)C)NCC(=O)OC)C | C17H25NO2
